US04704355
Preparation of ATP Marker
Two hundred milligrams of adenosine 5'-triphosphate disodium salt (ATP), and 7.4 milligrams of ethylenedinitrotetraacetate disodium salt (EDTA) were dissolved in water and the pH adjusted to 8.0 with IN NaOH. The solution was then adjusted to a final volume of 20.0 milliliters with water with a final concentration of ATP at 1.0% (w/v).

reactant | adenosine 5'-triphosphate disodium salt | Two hundred milligrams | [Na+].[Na+].P([O-])(=O)(OP(=O)([O-])OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O
solvent | water | O | H2O
solvent | NaOH | [OH-].[Na+]
product | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
